US09290472B2
4-Methylbenzenesulfonyl chloride (22.7 g) was added portionwise to a stirred, cooled solution of tert-butyl (S)-2-hydroxyoxymethylpyrrolidine-1-carboxylate (20.0 g) in pyridine (70 mL) while maintaining the temperature at 0° C. The resultant mixture was stirred at room temperature overnight. The mixture was concentrated under vacuum and the residue was dissolved in DCM and washed with saturated aqueous sodium bicarbonate solution and brine, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness to give tert-butyl (S)-2-(4-methylbenzenesulfonyl-oxymethyl)pyrrolidine-1-carboxylate (34 g) as a yellow oil which was used without further characterisation.

reactant | 4-Methylbenzenesulfonyl chloride | 22.7 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | tert-butyl (S)-2-hydroxyoxymethylpyrrolidine-1-carboxylate | 20.0 g | OOC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO4
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl (S)-2-(4-methylbenzenesulfonyl-oxymethyl)pyrrolidine-1-carboxylate | 34 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C17H25NO5S
